US06881844B2
A solution of 2,2,2-trifluoro-1-(1-isopropyl-6-methyl-1H-indol-3-yl)-ethanone (1.50 g, 5.57 mmol) in a 20% aqueous sodium hydroxide solution (20 mL) was heated at 110° C. for 18 h. At this time, the reaction was cooled to 25° C., partitioned between water (150 mL) and ethyl acetate (150 mL), and then treated with a 1N aqueous hydrochloric acid solution (50 mL). The organic layer was washed with a saturated aqueous sodium bicarbonate solution (1×50 mL), water (1×50 mL), and a saturated aqueous sodium chloride solution (1×50 mL). The organic layer was then dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 1-isopropyl-6-methyl-1H-indole-3-carboxylic acid (1.19 g, 98%) as a yellow solid: mp 185-186° C.; EI-HRMS m/e calcd for C13H15NO2 (M+) 217.1103, found 217.1110.

reactant | 2,2,2-trifluoro-1-(1-isopropyl-6-methyl-1H-indol-3-yl)-ethanone | 5.57 mmol, 1.50 g | FC(C(=O)C1=CN(C2=CC(=CC=C12)C)C(C)C)(F)F | C14H14F3NO
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
product | 1-isopropyl-6-methyl-1H-indole-3-carboxylic acid | 1.19 g, 98% | C(C)(C)N1C=C(C2=CC=C(C=C12)C)C(=O)O | C13H15NO2
